US08106077B2
[3-(2,6-Dichloro-phenyl)-5-trifluoromethyl-3H-[1,2,3]triazol-4-yl]methanol
To a 0° C. solution of 3-(2,6-dichloro-phenyl)-5-trifluoromethyl-3H-[1,2,3]triazole-4-carboxylic acid ethyl ester (28 g, 79 mmol) in THF (200 mL) is added dropwise 1M DIBAL (166 mL, 166 mmol) keeping the temperature below 5° C. After the addition, the bath is removed and the reaction is stirred for 18 h. The reaction is cooled to 0° C. and ether (300 mL) is added. The reaction is quenched with 1N HCl (250 mL) dropwise keeping the temperature below 15° C. The layers are separated and the water layer is washed with Ether (100 mL). The organics are combined and washed with water, brine, and dried with Na2SO4. The organic layer is concentrated to dryness to yield the title compound (24 g, 97%) and is used with no further purification. ES/MS m/e 312.0 (M+1).

reactant | 3-(2,6-dichloro-phenyl)-5-trifluoromethyl-3H-[1,2,3]triazole-4-carboxylic acid ethyl ester | 79 mmol, 28 g | C(C)OC(=O)C=1N(N=NC1C(F)(F)F)C1=C(C=CC=C1Cl)Cl | C12H8Cl2F3N3O2
reactant | DIBAL | 166 mmol, 1M, 166 mL | CC(C)C[AlH]CC(C)C
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | [3-(2,6-Dichloro-phenyl)-5-trifluoromethyl-3H-[1,2,3]triazol-4-yl]methanol | 24 g, 97% | ClC1=C(C(=CC=C1)Cl)N1N=NC(=C1CO)C(F)(F)F | C10H6Cl2F3N3O
